US07569706B2
Ethanolamine (500 mg, 8.2 mmol) and sodium hydroxide (1.7 g, 40 mmol) were suspended in a rinsed solvent of dioxane and water (10:1, 50 ml), and di-tert-butyl dicarbonate (1.96 g, 9.0 mmol) was added to the thus obtained suspension in several portions at 0° C. The reaction solution was stirred at 0° C. for 2 hours, and then an aqueous potassium hydrogensulfate solution (5%, 50 ml) was added thereto, followed by extraction with ethyl acetate (150 ml). The extracted organic layer was washed with water (30 ml) and a saturated brine (30 ml) in this order, dried over anhydrous magnesium sulfate and then filtered. The solvent was evaporated under reduced pressure to give crude (2-hydroxyethyl)carbamic acid terbutyl ester (1.32 g, 8.2 mmol, yield 100%).

reactant | Ethanolamine | 8.2 mmol, 500 mg | C(O)CN | C2H7NO
reactant | sodium hydroxide | 40 mmol, 1.7 g | [OH-].[Na+]
reactant | di-tert-butyl dicarbonate | 9.0 mmol, 1.96 g | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
reactant | potassium hydrogensulfate | 50 ml | S(=O)(=O)(O)[O-].[K+]
solvent | water | 50 ml | O | H2O
solvent | dioxane | O1CCOCC1 | C4H8O2
product | (2-hydroxyethyl)carbamic acid terbutyl ester | 8.2 mmol, 1.32 g, yield 100% | C(C)(C)(C)OC(NCCO)=O | C7H15NO3
